US05385880
Synthesis of methyl-2-hydroxy-4-(4-methylphenyl)nicotinate
117.0 g (0.54 mol) of 1-cyano-1-methoxycarbonyl-4-(N,N-dimethylamino)-2-(4-methylphenyl)-1,3-butadiene was added to 250 ml of concentrated sulfuric acid at a temperature below 20° C. under stirring, and the mixture was stirred at room temperature for 48 hours. The reaction mixture was poured into 1 l of ice water, and the precipitated material was filtrated out. The filtrate was adjusted to pH 6 with sodium hydroxide aqueous solution to precipitate the aimed product, which was then filtrated out. The material thus precipitated was washed with water and methanol, and was dried to obtain 74.9 g of a white crystal of the aimed product.

reactant | 1-cyano-1-methoxycarbonyl-4-(N,N-dimethylamino)-2-(4-methylphenyl)-1,3-butadiene | 0.54 mol, 117.0 g | C(#N)C(=C(C=CN(C)C)C1=CC=C(C=C1)C)C(=O)OC | C16H18N2O2
reactant | sulfuric acid | 250 ml | S(O)(O)(=O)=O | H2O4S
product | methyl-2-hydroxy-4-(4-methylphenyl)nicotinate | 74.9 g, Yield: 60.9% | COC(C1=C(N=CC=C1C1=CC=C(C=C1)C)O)=O | C14H13NO3
